US03989701
A solution of 9.37 g. of 3-nitro-4-morpholinobenzophenone in 196 ml. of ethyl acetate is reduced as described in Examples 1 or 2. 8.26 g. of 3-amino-4-morpholinobenzophenone are obtained; m.p.: 138° C.

reactant | 3-nitro-4-morpholinobenzophenone | [N+](=O)([O-])C=1C=C(C(=O)C2=CC=CC=C2)C=CC1N1CCOCC1 | C17H16N2O4
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-amino-4-morpholinobenzophenone | NC=1C=C(C(=O)C2=CC=CC=C2)C=CC1N1CCOCC1 | C17H18N2O2
